### ISSUE TITLE
`split` tactic introduces useless hypothesis

### ISSUE THREAD

**Issue by TwoFX** [leanprover/lean4#8297]
### Prerequisites

Please put an X between the brackets as you perform the following steps:

* [x] Check that your issue is not already filed:
      https://github.com/leanprover/lean4/issues
* [x] Reduce the issue to a minimal, self-contained, reproducible test case.
      Avoid dependencies to Mathlib or Batteries.
* [x] Test your test case against the latest nightly release, for example on
      https://live.lean-lang.org/#project=lean-nightly
      (You can also use the settings there to switch to “Lean nightly”)

#### First example:
```lean
example {n : Nat} : (match n with | 0 => 1 | n + 1 => n + 1) = n + 1 := by
  split
```
here we get the goals
```
n✝ : Nat
⊢ 1 = 0 + 1


n✝¹ n✝ : Nat
⊢ n✝ + 1 = n✝.succ + 1
```
but it would be nicer if this was
```
⊢ 1 = 0 + 1


n✝ : Nat
⊢ n✝ + 1 = n✝.succ + 1
```

#### Second example:
```lean
example : (fun foo => match foo with | 0 => 1 | n + 1 => n + 2) = (fun bar => bar + 1) := by
  ext baz
  split
```
here we get the goals
```
foo✝ : Nat
⊢ 1 = 0 + 1


foo✝ n✝ : Nat
⊢ n✝ + 2 = n✝.succ + 1
```
but it would be nicer if this was
```
⊢ 1 = 0 + 1


n✝ : Nat
⊢ n✝ + 2 = n✝.succ + 1
```

### Versions

`4.21.0-nightly-2025-05-12` on live.lean-lang.org

### Impact

Add :+1: to [issues you consider important](https://github.com/leanprover/lean4/issues?q=is%3Aissue+is%3Aopen+sort%3Areactions-%2B1-desc). If others are impacted by this issue, please ask them to add :+1: to it.

**Comment by digama0** [comment]
I don't think the description of this as "introduces useless hypothesis" is correct. The variable is already in the context when the split happens, it's simply not being removed. A similar thing happens with `induction` as well. Note that this variable can't always be removed, e.g. you can have `match x with | y => x + y` which makes use of the matched variable inside the match arm.

**Comment by TwoFX** [comment]
Hmm, if it's the same hypothesis as before, then why does the name change from something accessible to something inaccessible?

**Comment by nomeata** [comment]
Since I was looking at the code right now: There is a generalization step that introduces a new variable here, and that is introduced with a fresh name, see `after generalize`:

```
set_option trace.split.debug true

/--
error: Failed: `fail` tactic was invoked
n✝ m : Nat
⊢ m + 1 = m.succ + 1
---
trace: [split.debug] candidate:
      match n with
      | 0 => 1
      | m.succ => m + 1
[split.debug] applyMatchSplitter
    n : Nat
    ⊢ (match n with
        | 0 => 1
        | m.succ => m + 1) =
        n + 1
[split.debug] after generalizeMatchDiscrs
    n : Nat
    ⊢ (match n with
        | 0 => 1
        | m.succ => m + 1) =
        n + 1
[split.debug] discrEqs after generalizeTargetsEq: []
[split.debug] after generalize
    n : Nat
    ⊢ ∀ (n_1 : Nat),
        n = n_1 →
          (match n with
            | 0 => 1
            | m.succ => m + 1) =
            n + 1
[split.debug] after introN
    n n✝ : Nat
    ⊢ n = n✝ →
        (match n with
          | 0 => 1
          | m.succ => m + 1) =
          n + 1
[split.debug] after check splitter
[split.debug] before unifyEqs
    case h_1
    n n✝ : Nat
    ⊢ n = 0 →
        (match n with
          | 0 => 1
          | m.succ => m + 1) =
          n + 1
[split.debug] after unifyEqs
    case h_1
    n✝ : Nat
    ⊢ (match 0 with
        | 0 => 1
        | m.succ => m + 1) =
        0 + 1
[split.debug] before unifyEqs
    case h_2
    n n✝ m✝ : Nat
    ⊢ n = m✝.succ →
        (match n with
          | 0 => 1
          | m.succ => m + 1) =
          n + 1
[split.debug] after unifyEqs
    case h_2
    n✝ m✝ : Nat
    ⊢ (match m✝.succ with
        | 0 => 1
        | m.succ => m + 1) =
        m✝.succ + 1
-/
#guard_msgs in
example {n : Nat} : (match n with | 0 => 1 | m + 1 => m + 1) = n + 1 := by
  split
  next => rfl
  next m =>
    fail
```

(Maybe avoidable, maybe the name could be preserved, didn't look further)
